US09238631B2
a) Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-nitrobenzyl)-L-glutamate
5.0 g (13.9 mmol) of di-tert-butyl Boc-glutamate (Journal of Peptide Research (2001), 58, 338) were dissolved in 30 mL of tetrahydrofuran and cooled to −70° C. 30.6 mL (30.6 mmol) of a 1M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran were added dropwise over a period of 85 min at this temperature and the mixture was stirred at −70° C. for another 2 hours. 9.0 g (41.7 mmol) of 4-nitrobenzyl bromide in 30 mL of tetrahydrofuran were than added dropwise, and after 1.5 h at this temperature, the cooling bath was removed and 100 mL of 2N aqueous hydrochloric acid and 450 mL of dichloromethane were added. The organic phase was separated off, washed with water (3×150 mL), dried over sodium sulfate and filtered, and the filtrate was concentrated. The crude product obtained in this manner was chromatographed on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | di-tert-butyl Boc-glutamate | 13.9 mmol, 5.0 g | C(=O)(OC(C)(C)C)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H33NO6
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-nitrobenzyl bromide | 41.7 mmol, 9.0 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-nitrobenzyl)-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C25H38N2O8
